US07572820B2
2-Ethyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 145B from 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole. MS (ESI): m/z 465 (M+1).

reactant | 2-ethyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(C)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C12H9F3N2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 2-Ethyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | C(C)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C22H14F6N4O
